US07098212B2
(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-phenyl)-methanesulfonamide
To a solution of 2-chloro-1-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-ethanone (0.028 g, 0.094 mmol) in dimethylformamide (1 mL) was added (5-chloro-2-hydroxy-phenyl)-methanesulfonamide (0.023 g, 0.10 mmol), potassium carbonate (0.026 g, 0.19 mmol) and potassium iodide (0.016 g, 0.094 mmol). The reaction was heated at 60° C. for 17 hours, cooled, diluted with water and extracted with ethyl acetate (3×). The organic layers were combined, dried over sodium sulfate, filtered and concentrated in vacuo. Chromatography on silica gel gave the title compound (0.014 g).

reactant | 2-chloro-1-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-ethanone | 0.094 mmol, 0.028 g | ClCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C | C15H20ClFN2O
reactant | (5-chloro-2-hydroxy-phenyl)-methanesulfonamide | 0.10 mmol, 0.023 g | ClC=1C=CC(=C(C1)CS(=O)(=O)N)O | C7H8ClNO3S
reactant | potassium carbonate | 0.19 mmol, 0.026 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.094 mmol, 0.016 g | [I-].[K+]
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-phenyl)-methanesulfonamide | 0.014 g | ClC=1C=CC(=C(C1)CS(=O)(=O)N)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C | C22H27ClFN3O4S
